US04929618
To a mixture of 1.00 g (3.96 mmol) of 4-(diphenylmethyl)-piperazine and 1.28 g (5.57 mmol) of 2-(2-chloroethylthio)benzothiazole, were added 10 ml of dioxane, 2 ml of dimethylformamide and 0.85 g (6.15 mmol) of potassium carbonate, and the mixture was stirred under reflux for 3 hours. After the reaction, the insolubles were filtered off, and the filtrate was concentrated. The residue was separated by silica gel column chromatography using a mixture of chloroform and methanol in the volume ratio 30:1 as the developing solvent, and the desired fraction was concentrated under reduced pressure to give 0.61 g (35%) of 2-[2-[4-(diphenylmethyl)-1-piperadinyl]-ethylthio]benzothiazole as an oil.

reactant | 4-(diphenylmethyl)-piperazine | 3.96 mmol, 1.00 g | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | 2-(2-chloroethylthio)benzothiazole | 5.57 mmol, 1.28 g | ClCCSC=1SC2=C(N1)C=CC=C2 | C9H8ClNS2
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
reactant | potassium carbonate | 6.15 mmol, 0.85 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-[2-[4-(diphenylmethyl)-1-piperadinyl]-ethylthio]benzothiazole | 0.61 g, 35% | C1(=CC=CC=C1)C(C1CCN(CC1)CCSC=1SC2=C(N1)C=CC=C2)C2=CC=CC=C2 | C27H28N2S2
